* D:\home\brosnan\books\circuits\Circuits-LTSpice\Filters\RC\RC-highpass-frequency-domain.asc
* Generated by LTspice 26.0.1 for Windows.
Vin N001 0 SINE(1 1 25000) AC 1
R1 Output_high_pass 0 1
C1 N001 Output_high_pass 100µ
.ac dec 1000 10 100k
* Notes:\n1) The capacitor stops all the constant voltage and therefore removes the constant DC offset (if there is any)\n \nDesign:\n1) Cut-off frequency is 1/(2*pi*R*C) = 1.592kHz.\nAt cut off there is attenuation of -3 dB (by definition). That is Vout = Vin/sqrt(2)
* RC high pass filter
.backanno
.end
