* D:\home\brosnan\books\circuits\Circuits-LTSpice\Filters\RC\RC-lowpass- frequency-domain.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 0 SINE(1 1 25000) AC 1
R1 OUT N001 1
C1 OUT 0 100µ
.ac dec 1000 10 100k
* RC low pass filter
* Frequency domain analysis
.backanno
.end
