* D:\home\brosnan\books\circuits\Circuits-LTSpice\Filters\RC\RC-lowpass-step-response.asc
* Generated by LTspice 26.0.1 for Windows.
C1 OUT 0 100µ
R1 OUT N001 2k
V1 N001 0 5
.tran 0 1s 0 1ms startup
* Time constant RC = 0.2 seconds\nCut off frequency f = 1/(2*pi*R*C)
* Step response
.backanno
.end
