* D:\home\brosnan\books\circuits\Circuits-LTSpice\Filters\RC\RC-sawtooth-response.asc
* Generated by LTspice 26.0.1 for Windows.
R1 N002 N001 10
C1 N002 0 10m
V1 N001 0 PULSE(-200 200 0 500m 0.001u 0.001u 500m 10)
.tran 10s
* Sawtooth wave
.backanno
.end
