* D:\home\brosnan\books\circuits\Circuits-LTSpice\Oscillators\Sawtooth-oscillator.asc
* Generated by LTspice 26.0.1 for Windows.
R1 N001 N003 1k
R2 N003 0 10k
C1 N004 0 100n
Q1 N004 N003 N002 0 BC640
R3 N001 N002 10k
V1 N001 0 9
Q2 N005 N006 0 0 BC337-40
Q3 N006 N005 N004 0 BC640
R4 N001 N005 10k
R5 N005 0 10k
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
* Sawtooth oscillator
* Veb_Q1 = 0.513 V (measured)\nVR3 = 0.3065 V (measured)\nEstimated emitter current (Q1) = VR3/10000 = 30.65uA\n \nIe = (Vcc - Veb - R2/(R2+R1)*Vcc)/R3 \nIe = (1+ beta)*Ic\n \nassuming beta >> 1 then Ie = Ic\n \nThen capacitor needs a time t to rise to a voltage equal to 4.5V + Veb\nrequired to turn on Q3 and in turn turning on Q2.\n \nt = (R5/(R4+R5)*Vcc + Veb) * C / Ic\nt = (4.50+0.6)*100*10**(-9)/Ic = 16.6 ms\n \nNeglecting discharging time which is quite fast, we get a frequency of\nf = 1/t = 60.09 Hz while the measured one is 62 Hz. Quite close.\n \n \nTo increase frequency:\n- Reduce C\n- Reduce VA\n- Increase Ic (reduce R3)\n \nNotes:\n1) Better to use polyester capacitors\n2) Circuit has been tested and works
* e
* b
* c
* A
* OUT
.backanno
.end
