* D:\home\brosnan\books\circuits\Circuits-LTSpice\AC-DC and DC-AC converters\Three-phase-naive-inverter.asc
* Generated by LTspice 26.0.1 for Windows.
M1 N001 N002 N005 N005 Si7336ADP
M2 N005 N008 N015 N015 Si7336ADP
C1 N001 N014 10µ
V1 N001 N014 10
R1 N005 N011 100
L1 N011 0 1m
V2 N002 0 PULSE(0 5 0 1u 1u 0.5 1 10)
V3 N008 0 PULSE(0 5 0.500 1u 1u 0.5 1 10)
M3 N001 N003 N006 N006 Si7336ADP
M4 N006 N009 N015 N015 Si7336ADP
R2 N006 N012 100
L2 N012 0 1m
V4 N003 0 PULSE(0 5 0.3333 1u 1u 0.5 1 10)
V5 N009 0 PULSE(0 5 0.8333 1u 1u 0.5 1 10)
M5 N001 N004 N007 N007 Si7336ADP
M6 N007 N010 N015 N015 Si7336ADP
R3 N007 N013 100
L3 N013 0 1m
V6 N004 0 PULSE(0 5 0.6666 1u 1u 0.5 1 10)
V7 N010 0 PULSE(0 5 1.1666 1u 1u 0.5 1 10)
R4 N015 N014 100
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 10
* Caution: shorted mosfets!
* R4 just for current limiting purposes
* Three phase naive inverter
.backanno
.end
