* D:\home\brosnan\books\circuits\Circuits-LTSpice\Transformer\Transformer-step-down-2-1.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 0 SINE(0 10 50Hz) Rser=0.0001
L1 N001 0 16µ
L2 0 N002 4µ
R2 0 N002 1
K1 L1 L2 1
.tran 0 100ms 0 0.5ms
* Step down 2:1
* Ideal step down 2:1 transformer
.backanno
.end
