* D:\home\brosnan\books\circuits\Circuits-LTSpice\Worst-case-scenario-simulation\Worst-Case-Scenario-2-Simulation-LTSpice.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 0 AC 1
C1 N002 N001 {wc(10u, tolb,0)}
R1 N002 Vout {wc(10k, tola,1)}
R2 Vout 0 {wc(10k, tola,2)}
C2 Vout 0 {wc(1u, tolb,3)}
.param tola=0.1
.param tolb=0.2
.step param run 0 16 1
.ac dec 10 1 1k
* Resistors' tolerance 10%
* Capacitors' tolerance 20%
* Worst Case Scenario analysis in LTSpiceIV
.function binary_digit(x, powerOfTwo) floor(x/(2**powerOfTwo)) - 2*floor(x/(2**(powerOfTwo + 1)))
.function wc(nom, tol, powerOfTwo) if(run==16, nom, if(binary_digit(run, powerOfTwo), nom*(1 + tol), nom*(1 - tol) ) )
* From Harry's comment at https://k6jca.blogspot.com/2012/07/monte-carlo-and-worst-case-circuit.html\n \nLet's say you have 4 components that you wish to vary over their tolerance range.\nYou require 2^4 + 1 runs (i.e., 17) to cover all the worst case combinations, \nplus 1 run with all values equal to their nominal.\n \nSet the number of runs as follows: .step param run 0 16 1\n \nNow, assign the values of the components as follows:\n \ncomponent 1: {wc(nominal_value,tolerance,0)}\ncomponent 2: {wc(nominal_value,tolerance,1)}\ncomponent 3: {wc(nominal_value,tolerance,2)}\ncomponent 4: {wc(nominal_value,tolerance,3)}\n \nFinally, replace "y" in the "wc" function with "16"\n \nNow when you do your simulation run, you are guaranteed to have simulated\nall 16 different possible combinations of component value extremes exactly\n once each. Another benefit of this approach is that when looking at the\nresults you can determine the actual component values used for a given result.
.backanno
.end
