* Generated by electronics_design from a KiCad schematic
.include "BC546.lib"
C4 N005 0 10u
V1 N006 0 5
R5 vdd N001 2.7k
R7 out 0 1Meg
V2 vdd N006 PULSE(0 50m 1u 1u 1u 50u 1)
C5 N001 out 1u
Q1 N001 N004 N005 0 BC546B
C2 N002 N003 2.4n
R2 N003 0 6.8k
C1 N001 N002 2.4n
R3 vdd N004 8.5k
C3 N003 N004 2.4n
R1 N002 0 6.8k
R4 N004 0 6.8k
R6 N005 0 2.2k
.tran 1
.backanno
.end
