* D:\home\brosnan\books\circuits\Circuits-LTSpice\Current limiting circuits\current-limiting-npn.asc
* Generated by LTspice 26.0.1 for Windows.
R1 N002 Vcc 54k
R2 0 N003 30
Q1 N001 N002 N003 0 2N3904
Q2 N002 N003 0 0 2N3904
V1 Vcc 0 12
R3 Vcc N001 {R_load}
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
* Sizing:\nR2 sets max current -> set max current through the load: Imax = 20 mA\nFind R2 at max current assuming its voltage drop is Vbe and Q2 is still not conducting -> R2 = 0.6V/Imax = 30 ohm\nFind base current at the limiting condition where Q2 is still not conducting -> Ib = Ic/100 = 200 uA\nFind R1 using KVL -> 12 = R1*Ib + 0.6 + 0.6 -> R1 = (12 - 1.2)/20 u = 54k ohm\n \nNow see what happens when R load changes -> max current through the circuit is fixed at 20 mA\nPossible application -> LED driver circuit\n \nAfter running the simulation:\n1) CTRL + L or View SPICE error log\n2) Right click -> Plot .step ed .meas data
.tran 1
.step param R_load 100 1k 50
.meas Load_current AVG I(R3)
* Current limiting circuit using NPN transistors
.backanno
.end
