* Generated by electronics_design from a KiCad schematic
.model NPN NPN
.include "/usr/share/kicad/symbols/Simulation_SPICE.sp"
R1 out N001 100k
V_PWR06 N-5V 0 -5V
Q1 N003 N002 N004 0 NPN
V2 N+5V 0 5
R3 N002 0 10k
R5 N+5V N003 5k
V_PWR05 N+5V 0 +5V
V1 0 N-5V 5
R2 N001 in 10k
* KICAD_SYMBOL_LIB_ID XU1 Simulation_SPICE:OPAMP
* KICAD_SIM_PINS XU1 1=in+ 2=in- 3=vcc 4=vee 5=out
* KICAD_VALUE XU1 ${SIM.PARAMS}
XU1 0 N001 N+5V N-5V out kicad_builtin_opamp POLE=30 GAIN=100k VOFF=10u ROUT=10
R4 N+5V N002 50k
C1 in N002 1u
V3 in 0 SINE(0 0.1 1k) AC 1
R7 outb 0 100k
V_PWR011 N+5V 0 +5V
V_PWR07 N-5V 0 -5V
C2 N003 outb 1u
V_PWR04 N+5V 0 +5V
R6 N004 0 330
.tran 1
.backanno
.end
