* Generated by electronics_design from a KiCad schematic
* KICAD_SINGLETON_LABEL out
.include "lvc1g14.ibs"
C1 N002 0 1p
R2 N002 out 1
* KICAD_SYMBOL_LIB_ID XU1 Simulation_SPICE:IBIS_DRIVER
* KICAD_SIM_PINS XU1 1=GND 2=IN/OUT
* KICAD_VALUE XU1 IBIS_DRIVER
XU1 0 N001 74LVC1G14_GM ton=1e-8 toff=1e-8 td=1e-9 n=2
R1 N001 N002 1
.tran 1
.backanno
.end
