* Generated by electronics_design from a KiCad schematic
.include "lvc1g14.ibs"
* KICAD_SYMBOL_LIB_ID XU2 Simulation_SPICE:IBIS_DEVICE
* KICAD_SIM_PINS XU2 1=GND 2=IN/OUT
* KICAD_VALUE XU2 IBIS_DEVICE
XU2 0 in2 74LVC1G14_GM
C1 N001 0 10p
R2 N001 in2 1
* KICAD_SYMBOL_LIB_ID XU1 Simulation_SPICE:IBIS_DRIVER
* KICAD_SIM_PINS XU1 1=GND 2=IN/OUT
* KICAD_VALUE XU1 IBIS_DRIVER
XU1 0 out1 74LVC1G14_GM ton=1e-8 toff=1e-8 td=1e-9 n=3
R1 out1 N001 1
.tran 1
.backanno
.end
