* Generated by electronics_design from a KiCad schematic
.include "sn74lvc1g14.ibs"
* KICAD_SYMBOL_LIB_ID XU2 Simulation_SPICE:IBIS_DEVICE
* KICAD_SIM_PINS XU2 1=GND 2=IN/OUT
* KICAD_VALUE XU2 IBIS_DEVICE
XU2 0 in2 LVC1G14_YEP
C1 N001 0 10p
R2 N001 in2 10
* KICAD_SYMBOL_LIB_ID XU1 Simulation_SPICE:IBIS_DRIVER
* KICAD_SIM_PINS XU1 1=GND 2=IN/OUT
* KICAD_VALUE XU1 IBIS_DRIVER
XU1 0 out1 LVC1G14_YEP ton=5e-9 toff=5e-9 td=1e-9 n=3
R1 out1 N001 10
.tran 1
.backanno
.end
