* Generated by electronics_design from a KiCad schematic
.include "max9000_LT.lib"
R6 AOUT N_WIRE_001 50R
* KICAD_SYMBOL_LIB_ID XU1 PhysikIIIA:MAX9000
* KICAD_SIM_PINS XU1 1=97 2=2 3=1 4=400 5=235 6=101 7=197 8=300
* KICAD_VALUE XU1 MAX9000
XU1 AOUT an REF 0 REF cinp COUT N+5V max9000
R1 cinp AOUT 124k
C1 an AOUT 220p
V_PWR04 N+5V 0 +5V
V_PWR05 N+5V 0 +5V
R4 COUT an 42k
V1 N+5V 0 5
C2 0 N+5V 100n
R3 0 cinp 66k
R5 an AOUT 1Meg
R2 cinp COUT 154k
.tran 1
.backanno
.end
