* Generated by electronics_design from a KiCad schematic
.include "audio-pwm.lib"
C5 out+ out- 0.47u
L2 dn out- 33u Rser=1m
V1 in 0 SINE(0 0.95 1.01k) AC 1
R1 out+ out- 8
L1 dp out+ 33u Rser=1m
* KICAD_SYMBOL_LIB_ID XA1 Simulation_SPICE:ESOURCE
* KICAD_SIM_PINS XA1 1=outp 2=outn 3=in+ 4=in-
* KICAD_VALUE XA1 APWM
XA1 dp dn in 0 audiopwm
C4 0 out- 0.1u
C3 out+ 0 0.1u
.tran 1
.backanno
.end
