* Generated by electronics_design from a KiCad schematic
C1 v_out 0 1u
R1 VDD v_out 100R
V1 VDD 0 SINE(2 1 1k 0 0 0) AC 1
V_PWR02 VDD 0 VDD
.tran 1
.backanno
.end
