* Generated by electronics_design from a KiCad schematic
.include "CD40106B.lib"
* KICAD_SYMBOL_LIB_ID XU1 4xxx:40106
* KICAD_SIM_PINS XU1 1=Y 2=A 7=AGND 14=VCC
* KICAD_VALUE XU1 40106
XU1 cc out 0 vdd CD40106B
C1 cc 0 100n
R1 out cc 10k
V1 vdd 0 5
.options noinit
.tran 1
.backanno
.end
