* Generated by electronics_design from a KiCad schematic
* KICAD_SINGLETON_LABEL outbuf1
.include "40106all.lib"
* KICAD_SYMBOL_LIB_ID XU1 4xxx:40106
* KICAD_SIM_PINS XU1 1=in1 2=out1 3=in2 4=out2 5=in3 6=out3 7=vss 8=out4 9=in4 10=out5 11=in5 12=out6 13=in6 14=vdd
* KICAD_VALUE XU1 40106
XU1 cc1 out1 out1 outbuf1 0 NC_U1_0_6 0 NC_U1_0_8 0 NC_U1_0_10 0 NC_U1_0_12 0 vdd 40106all
C1 cc1 0 100n
R1 out1 cc1 10k
V1 vdd 0 5
.options noinit
.tran 1
.backanno
.end
