* Generated by electronics_design from a KiCad schematic
.include "1N5818.mod"
.include "bc337-25_spice.lib"
L3 N001 c1 70u Rser=1m
R1 N+12V b2 2.2k
L2 c2 N001 70u Rser=1m
L4 N003 N002 23u Rser=1m
C1 c2 c1 33n
D1 0 N003 DI_1N5818
* KICAD_SYMBOL_LIB_ID XQ1 Transistor_BJT:BC337
* KICAD_SIM_PINS XQ1 1=C 2=B 3=E
* KICAD_VALUE XQ1 BC337
XQ1 c1 b1 0 BC337-25
R2 out 0 22
* KICAD_SYMBOL_LIB_ID XQ2 Transistor_BJT:BC337
* KICAD_SIM_PINS XQ2 1=C 2=B 3=E
* KICAD_VALUE XQ2 BC337
XQ2 c2 b2 0 BC337-25
L5 N+12V N001 330u Rser=1m
V_PWR02 N+12V 0 +12V
V_PWR04 N+12V 0 +12V
V1 N+12V 0 12
C2 N+12V 0 100u
D4 N003 out DI_1N5818
C3 0 out 56u
L1 b2 b1 10n Rser=1m
D2 0 N002 DI_1N5818
D3 N002 out DI_1N5818
K1 L1 L2 0.98
K2 L1 L3 0.98
K3 L1 l4 0.98
K4 L2 L3 0.98
K5 L2 L4 0.98
K6 L3 L4 0.98
.options chgtol=1e-11 abstol=1u noinit
.tran 1
.backanno
.end
