* D:\home\brosnan\books\circuits\Circuits-LTSpice\Comparator circuits\other circuits with hysteresis\schmitt_trigger_bjts.asc
* Generated by LTspice 26.0.1 for Windows.
R1 Vcc N002 1k
R2 N002 N003 18k
R3 N003 0 910
R4 N003 Vin 10k
R5 Vcc N001 1k
R6 N001 N004 18k
Q1 N001 N003 0 0 2N3904
Q2 N002 N004 0 0 2N3904
V1 Vcc 0 12
V2 Vin 0 SINE(0 10 1)
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 1
.backanno
.end
