* Generated by electronics_design from a KiCad schematic
.include "D:\Spice_general\KiCad-799\SMPS\basic-complete\GenOpAmp.lib"
.include "D:\Spice_general\KiCad-799\SMPS\basic-complete\pwm2_model.lib"
.model D D
.model NMOS NMOS
L1 N001 sout 10u Rser=1m
R2 vdiv N004 10k
* KICAD_SYMBOL_LIB_ID XU1 Simulation_SPICE:OPAMP
* KICAD_SIM_PINS XU1 1=in+ 2=in- 3=out 4=vcc 5=vee
* KICAD_VALUE XU1 Generic OpAmp
XU1 N005 N004 N003 vcc vee genopa1
V5 0 vee 10
V3 in 0 PULSE(0 2.5 0 5m 5m 1 2)
V6 N005 0 0.5
R3 out vdiv 9.1k
V4 vcc 0 10
C2 N003 N004 10n
C3 out 0 4.7u
* KICAD_SYMBOL_LIB_ID XA1 PWM:PWM
* KICAD_SIM_PINS XA1 1=out+ 2=out- 3=in+ 4=in-
* KICAD_VALUE XA1 PWM
XA1 pw 0 vcont 0 pwm freq=490k vlo=0 vhi=10
V7 N002 vcont -0.5
R4 N004 N003 10Meg
R5 out 0 R='time >13m ? 20 : 60'
R6 N002 0 1k
R7 vdiv 0 1k
D1 sout out D
R8 N003 N002 20k
R9 pw gg 1
R1 in N001 2.2m
M1 sout gg 0 0 NMOS
.options chgtol=1e-10 abstol=10u method=gear
.tran 1
.backanno
.end
