* Generated by electronics_design from a KiCad schematic
* KICAD_SINGLETON_LABEL q1
* KICAD_SINGLETON_LABEL q2
* KICAD_SINGLETON_LABEL q3
.include "state-machine-3b-count.lib"
Vupd1 ud 0 PULSE(0 5 1u 1u 1u 500u 1m)
* KICAD_SYMBOL_LIB_ID XU1 up-down:Up-Down
* KICAD_SIM_PINS XU1 1=clock 2=updown 3=out_b0 4=out_b1 5=out_b2
* KICAD_VALUE XU1 up-down
XU1 clk ud q1 q2 q3 3bcounter
Vclk1 clk 0 PULSE(0 5 1u 1u 1u 10u 24u)
.tran 1
.backanno
.end
