R16 VDD C2 2.2k
Q9 C2 B2 0 0 2N3904
R15 B2 0 10k
R14 VDD B2 33k
R13 VDD C1 2.2k
Q8 C1 B1 0 0 2N3904
R12 B1 0 10k
R11 VDD B1 33k
V7 VDD 0 12
.model NPN NPN
.op
.backanno
.end
