R8 OUT 0 2k
C5 COL OUT 100n
Q4 COL BASE 0 0 2N3904
R7 SUPPLY COL 1.5k
R6 BASE 0 12k
R5 SUPPLY BASE 39k
V4 SUPPLY 0 14
.tran 4m
.model NPN NPN
.backanno
.end
