R9 OUT 0 4.7k
C8 COL OUT 220n
R8 VDD COL 2.7k
Q8 COL BASE 0 0 2N3904
R7 BASE 0 6.8k
R6 VDD BASE 18k
V7 VDD 0 11
.tran 3m
.model NPN NPN
.backanno
.end
