R9 OUT 0 1k
C4 EMIT OUT 10n
Q5 SUP BASE EMIT 0 2N3906
R8 0 EMIT 1.5k
R7 BASE 0 10k
R6 SUP BASE 27k
V8 SUP 0 -12
.tran 1m
.model PNP PNP
.backanno
.end
