V1 Vcc 0 30
V2 Vcarrier 0 SINE(0 30m 600k)
V3 Vmodulating 0 SINE(0 3.5 1k)
R1 Vcc N003 56k
R2 N003 0 15k
C1 N003 Vcarrier 100n
Q1 N001 N003 N004 0 2N3904
R3 Vcc N001 10k
R4 N004 Vmodulating 4.7k
C2 N004 0 100n
C3 N002 N001 470p
R5 N002 0 1k
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 2m
.backanno
.end
