I1 0 N002 {A}
Q1 N001 N002 0 0 2N3904
V1 Vcc 0 5
R1 Vcc N001 1
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
.stepPARAM A 1m 200m 1m
.op
.backanno
.end
