V1 VCC 0 12
R1 VCC OUT 3.3k
R2 VCC B 82k
R3 B 0 12k
Q1 OUT B 0 0 NPN
.noise V(OUT) V1 dec 10 1 100k
* another ignored comment
.lib noise.lib
.backanno
.end
