V1 VCC 0 9
R1 VCC OUT 1.8k
R2 VCC B 56k
R3 B 0 8.2k
Q1 OUT B 0 0 NPN
R4 VCC OUT 1k
.tran 0 1m 0 1u
; save line comment ignored
.save V(OUT)
.backanno
.end
